US07652054B2
(a) 1-(4-Bromobenzyl)-1H-[1,2,4]triazole
DMF and KOH (3.3 g, 58 mmol) were stirred together at rt for 5 minutes before adding 1,2,4-triazole (1 g, 14.5 mmol). After a further 30 minutes, the reaction mixture was cooled to 0° C. and 1-bromo-4-bromomethyl-benzene (7.2 g, 29 mmol) was added dropwise over 5 minutes. The reaction mixture was heated to 60° C., then cooled to It, extracted with ethyl acetate and water, and subsequently dried over K2CO3. The solvent was evaporated to yield yellow-white crystals, which, upon repeated recrystallisation, (ethylacetate/isohexane) yielded 0.60 g of the sub-title compound as white crystals (62% isolated yield).

reactant | KOH | 58 mmol, 3.3 g | [OH-].[K+]
reactant | 1,2,4-triazole | 14.5 mmol, 1 g | N1N=CN=C1 | C2H3N3
reactant | 1-bromo-4-bromomethyl-benzene | 29 mmol, 7.2 g | BrC1=CC=C(C=C1)CBr | C7H6Br2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-Bromobenzyl)-1H-[1,2,4]triazole | 0.60 g, 62% | BrC1=CC=C(CN2N=CN=C2)C=C1 | C9H8BrN3
